US05100913
VIII a) Preparation of 4-[(4-methoxyphenyl)sulfonyl]benzonitrile
6 g (0.0248 mol) of 4-[(4-methoxyphenyl)thio]benzonitrile and then 18.45 g of magnesium monoperoxyphthalate hexahydrate are added to a mixture of 120 ml of ethanol and 12 ml of water. The reaction medium is kept at 40° C. for 20 minutes. After hydrolysis in iced water, the solution is filtered and the white solid is washed with water. 5.2 g (yield: 77%) of the expected product are thus obtained.

reactant | 4-[(4-methoxyphenyl)thio]benzonitrile | 0.0248 mol, 6 g | COC1=CC=C(C=C1)SC1=CC=C(C#N)C=C1 | C14H11NOS
reactant | magnesium monoperoxyphthalate hexahydrate | 18.45 g | O.O.O.O.O.O.C(C=1C(C(=O)[O-])=CC=CC1)(=O)O[O-].[Mg+2]
reactant | ethanol | 120 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | water | 12 ml | O | H2O
product | 4-[(4-methoxyphenyl)sulfonyl]benzonitrile | 5.2 g, yield: 77% | COC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C#N)C=C1 | C14H11NO3S
